US06992087B2
Preparation of 5-(2,4-dichlorophenyl)-3,6-dimethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting Preparation of 5-bromo-3,6-dimethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine and making non-critical variations provided the title compound as a oil: 1H NMR (CDCl3) δ 1.95, 2.15, 2.28, 2.35, 2.90, 4.62, 5.52, 7.23, 7.34, 7.41, 7.51; MS (ESI+) for C22H21Cl3N3 m/z 399.1 (M+H)+.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | 5-bromo-3,6-dimethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | BrC=1N=C(C(=NC1C)NC1CCCC2=CC=CC=C12)C | C16H18BrN3
product | 5-(2,4-dichlorophenyl)-3,6-dimethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1C)NC1CCCC2=CC=CC=C12)C | C22H21Cl2N3
